US09034311B2
a) (S)-2-Chloro-N-(1-(5-fluoropyridin-2-yl)ethyl)pyrimidin-4-amine
A solution of (S)-1-(5-fluoropyridin-2-yl)ethanamine (prepared as described in WO2006/123113, 235 mg, 1.68 mmol) in tetrahydrofuran (2 mL) was added to a stirred solution of 2,4-dichloropyrimidine (250 mg, 1.68 mmol) in tetrahydrofuran (2 mL) at ambient temperature. A solution of triethylamine (0.23 mL, 1.68 mmol) in tetrahydrofuran (2 mL) was then added dropwise and the reaction mixture was heated overnight at 55° C. After cooling to ambient temperature, the reaction mixture was diluted with water and extracted twice with ethyl acetate. The combined organic layers were washed with water and brine, dried over magnesium sulfate, filtered and the solvents were evaporated under reduced pressure. The residue was purified by reverse phase chromatography (C-18 silica from Waters©, water/acetonitrile/methanol as eluents [0.1% v/v formic acid buffered] 0% to 100%) to give the title compound (43 mg, 10%) as an oil.

reactant | (S)-1-(5-fluoropyridin-2-yl)ethanamine | 1.68 mmol, 235 mg | FC=1C=CC(=NC1)[C@H](C)N | C7H9FN2
reactant | 2,4-dichloropyrimidine | 1.68 mmol, 250 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | triethylamine | 1.68 mmol, 0.23 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (S)-2-Chloro-N-(1-(5-fluoropyridin-2-yl)ethyl)pyrimidin-4-amine | 43 mg, 10% | ClC1=NC=CC(=N1)N[C@@H](C)C1=NC=C(C=C1)F | C11H10ClFN4
